US06716859B2
4-(Pyridin-4-yl)-2-(pyridin-2-yl)pyrimidine-5-carboxylic acid (3-trifluoromethyl-benzylidene)-hydrazide
The title compound was prepared from 4-(pyridin-4-yl)-2-(pyridin-2-yl)pyrimidine-5-carboxylic acid-hydrazide and 3-trifluoromethyl-benzaldehyde by a procedure similar to Example 22. 1H NMR (DMSO-d6): 12.38 (s, 1H), 9.30 (s, 1H), 9.22 (s, 1H), 8.84 (m, 1H), 8.78 (d, J=6.0 Hz, 1H), 8.68 (d, J=6.0 Hz, 1H), 8.54 (m, 1H), 8.31 (s, 1H), 8.01 (m, 2H), 7.97 (s, 1H), 7.82 (m, 1H), 7.73 (m, 1H), 7.62 (m, 2H).

reactant | 4-(pyridin-4-yl)-2-(pyridin-2-yl)pyrimidine-5-carboxylic acid-hydrazide | N1=CC=C(C=C1)C1=NC(=NC=C1C(=O)NN)C1=NC=CC=C1 | C15H12N6O
reactant | 3-trifluoromethyl-benzaldehyde | FC(C=1C=C(C=O)C=CC1)(F)F | C8H5F3O
product | 4-(Pyridin-4-yl)-2-(pyridin-2-yl)pyrimidine-5-carboxylic acid (3-trifluoromethyl-benzylidene)-hydrazide | FC(C=1C=C(C=NNC(=O)C=2C(=NC(=NC2)C2=NC=CC=C2)C2=CC=NC=C2)C=CC1)(F)F | C23H15F3N6O
